US07572809B2
Similar procedure as described in example 273 was used, starting from (1-chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-amino-benzonitrile to give 4-[3-(5-methyl-1H-pyrazol-3-ylamino)-6,7-dimethoxy-isoquinolin-1-ylamino]-benzonitrile. LC-MS m/e 401(MH+).

reactant | (1-chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=C(C=C12)OC)OC)NC1=NNC(=C1)C | C15H15ClN4O2
reactant | 4-amino-benzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
product | 4-[3-(5-methyl-1H-pyrazol-3-ylamino)-6,7-dimethoxy-isoquinolin-1-ylamino]-benzonitrile | CC1=CC(=NN1)NC=1N=C(C2=CC(=C(C=C2C1)OC)OC)NC1=CC=C(C#N)C=C1 | C22H20N6O2
